US06069156
To a stirred solution of 3-isobutyryl-2-propylindole-6-carboxylic acid (331 mg) in tetrahydrofuran (5 ml) were added benzylalcohol (1.25 ml), dicyclohexylcarbodiimide (303 mg) and 4-dimethylaminopyridine (20 mg) at 20° C. The reaction mixture was stirred at 20° C. for 8 hours. The precipitated urea was filtered off and the filtrate was evaporated in vacuo. The residue was extracted with ethyl acetate and the extract was washed with water two times and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:4) to give the crystals which were recrystallized from a mixture of ethyl acetate and hexane to give benzyl 3-isobutyryl-2-propylindole-6-carboxylate (215 mg) as colorless crystals.

reactant | 3-isobutyryl-2-propylindole-6-carboxylic acid | 331 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)O)CCC | C16H19NO3
reactant | benzylalcohol | 1.25 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 303 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | benzyl 3-isobutyryl-2-propylindole-6-carboxylate | 215 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1)CCC | C23H25NO3
